US07282501B2
Step D: 2-(2-tert-Butoxycarbonyl-ethyl)-5-hydroxy-benzoic acid 2-trimethylsilanyl-ethyl ester
A solution of 5-benzyloxy-2-(2-tert-butoxycarbonyl-vinyl)-benzoic acid 2-trimethylsilanyl-ethyl ester (6.20 g, 13.6 mmol) in EtOH (95 mL) was treated with Pd/C (5%, 0.775 g). The resulting suspension was treated with hydrogen at 60 psi for 6 h at room temperature. The catalyst was filtered through a pad of Celite, and the filtrate was concentrated to an oil (4.30 g, 86%). 1H NMR (400 MHz, CDCl3): δ 0.07 (s, 9H), 0.96 (t, 1H, J=8.8 Hz), 1.12 (t, 1H, J=8.8 Hz), 1.40 (s, 9H), 2.52 (t, 1H, J=7.8 Hz), 3.13 (t, 1H, J=7.8 Hz), 3.73 (t, 1H, J=8.5 Hz), 4.36 (t, 1H, J=8.5 Hz), 5.00 (br s, 1H), 6.88 (dd, 1H, J=2.4, 8.3 Hz), 7.14 (d, 1H, J=8.3 Hz), 7.35 (d, 1H, J=2.4 Hz).

reactant | 5-benzyloxy-2-(2-tert-butoxycarbonyl-vinyl)-benzoic acid 2-trimethylsilanyl-ethyl ester | 13.6 mmol, 6.20 g | C[Si](CCOC(C1=C(C=CC(=C1)OCC1=CC=CC=C1)C=CC(=O)OC(C)(C)C)=O)(C)C | C26H34O5Si
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 95 mL | CCO | C2H6O
catalyst | Pd/C | 0.775 g | [Pd] | Pd
product | 2-(2-tert-Butoxycarbonyl-ethyl)-5-hydroxy-benzoic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(C1=C(C=CC(=C1)O)CCC(=O)OC(C)(C)C)=O)(C)C | C19H30O5Si
